US05212182
4-Quinolinecarboxaldehyde (10.0 g, 63.8 mmol) and methyl 4-aminobenzoate (9.64 g, 63.8 mmol) were refluxed under nitrogen in 100 mL of toluene with azeotropic removal of water. After 7 days, the reaction mixture was allowed to cool to room temperature. The imine precipitated as a yellow solid and was collected by filtration. The material was dried under reduced pressure overnight affording 15.5 g (53.4 mmol) of crude product. This was stirred in 270 mL of ethanol and treated with sodium borohydride (2.22 g, 58.7 mmol). The reaction mixture was refluxed for 45 minutes then poured hot over 800 mL of crushed ice. After 45 minutes of stirring, the white solid was filtered and allowed to air dry in the funnel overnight giving 15.6 g of 4-[(4-quinolinylmethyl)amino]benzoic acid as a 5:1 mixture of methyl:ethyl esters. All of the material was refluxed for 18 hours in 180 mL of 1N KOH and then poured hot into a mixture of 180 mL of 1N HCl and 800 mL of water. After 3 hours of stirring, the white solid was filtered and washed successively with methanol and ether affording 13.5 g (48.5 mmol, 76% overall yield) of 4-[(4-quinolinylmethyl)amino]benzoic acid which was air dried in the funnel overnight.

reactant | 4-Quinolinecarboxaldehyde | 63.8 mmol, 10.0 g | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | methyl 4-aminobenzoate | 63.8 mmol, 9.64 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | water | O | H2O
reactant | sodium borohydride | 58.7 mmol, 2.22 g | [BH4-].[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 270 mL | C(C)O | C2H6O
product | 4-[(4-quinolinylmethyl)amino]benzoic acid | 15.6 g | N1=CC=C(C2=CC=CC=C12)CNC1=CC=C(C(=O)O)C=C1 | C17H14N2O2
